US09126969B2
N4-(2-dimethylaminoethyl)-5-fluorobenzene-1,2,4-triamine
1.29 g of N3-(2-dimethylaminoethyl)-4-fluoro-6-nitrobenzene-1,3-diamine in solution in 30 mL of methanol are hydrogenated under 1 bar of hydrogen pressure in the presence of 130 mg of palladium-on-charcoal at 25° C. for 16 hours. The reaction crude is filtered through celite and the filtrate is concentrated under vacuum in a rotary evaporator. 1 g of N4-(2-dimethylaminoethyl)-5-fluorobenzene-1,2,4-triamine are recovered in the form of a black resin. The product is used as it is for the subsequent stage.

reactant | N3-(2-dimethylaminoethyl)-4-fluoro-6-nitrobenzene-1,3-diamine | 1.29 g | CN(CCNC=1C=C(C(=CC1F)[N+](=O)[O-])N)C | C10H15FN4O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 30 mL | CO | CH4O
catalyst | palladium-on-charcoal | 130 mg | [Pd] | Pd
product | N4-(2-dimethylaminoethyl)-5-fluorobenzene-1,2,4-triamine | CN(CCNC=1C=C(C(=CC1F)N)N)C | C10H17FN4
